US06441017B1
Step B: Methyl 3-(Imidazol-4-yl)propionate Hydrochloride
To a solution of methyl 3-(imidazol-4-yl)acrylate hydrochloride, as described above in Step A, (500 mg, 2.65 mmol) in EtOH (100 mL) was added 10% Pd on carbon (250 mg) and the reaction mixture was shaken under an atmosphere of hydrogen (45 psi) at ambient temperature for 18 hours on a Parr hydrogenation apparatus. The mixture was filtered through a pad of celite, washing with EtOH, and the filtrate was filtered through a pad of celite, washing with EtOH, and the filtrate was concentrated in vacuo to give the titled product.

reactant | methyl 3-(imidazol-4-yl)acrylate hydrochloride | Cl.N1C=NC(=C1)C=CC(=O)OC
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd on carbon | 250 mg | [Pd] | Pd
product | Methyl 3-(Imidazol-4-yl)propionate Hydrochloride | Cl.N1C=NC(=C1)CCC(=O)OC | InChI=1S/C7H10N2O2.ClH/c1-11-7(10)3-2-6-4-8-5-9-6;/h4-5H,2-3H2,1H3,(H,8,9);1H
